US08017782B2
(c). 4-[2-Bromo-4-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-6-ethoxy-phenoxy]-but-2-enoic acid (2-methoxy-ethyl)-amide
A mixture of 4-[2-bromo-4-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydroquinolin-4-yl)-6-ethoxy-phenoxy]-but-2-enoic acid (0.1 g), HATU (0.108 g), DiPEA (165 μl) and 2-methoxyethylamine (25 μl) in dichloromethane was stirred for 2 h. The reaction mixture was diluted with water and extracted with EtOAc. The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by preparative HPLC (Method B). Yield: 65.5 mg. MS-ESI: [M+H]+=586.4/588.4; HPLC: Rt=16.39 min. (method 1). Diast. ratio: 5:1

reactant | 4-[2-bromo-4-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydroquinolin-4-yl)-6-ethoxy-phenoxy]-but-2-enoic acid | 0.1 g | BrC1=C(OCC=CC(=O)O)C(=CC(=C1)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N)OCC | C26H29BrN2O5
reactant | HATU | 0.108 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DiPEA | 165 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-methoxyethylamine | 25 μl | COCCN | C3H9NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-[2-Bromo-4-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-6-ethoxy-phenoxy]-but-2-enoic acid (2-methoxy-ethyl)-amide | COCCNC(C=CCOC1=C(C=C(C=C1OCC)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N)Br)=O | C29H36BrN3O5
